US09340547B2
a) N-Phenyl-1H-pyrrole-2-carboxamide
Prepared following the experimental method described in preparation 1a starting from 10.0 g (90.0 mmol) of 1H-pyrrole-2-carboxylic acid (purchased from Aldrich®, cat. no. P7,360-9) and 9.22 g (99.0 mmol) of aniline. 13.0 g (78% yield) of the title compound were obtained as a brownish solid.

reactant | 1H-pyrrole-2-carboxylic acid | 90.0 mmol, 10.0 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | aniline | 99.0 mmol, 9.22 g | NC1=CC=CC=C1 | C6H7N
product | N-Phenyl-1H-pyrrole-2-carboxamide | 13.0 g, 78% yield | C1(=CC=CC=C1)NC(=O)C=1NC=CC1 | C11H10N2O
